### ISSUE TITLE
[Correction] Verification evidence for seven existing Lean proofs (batch 2)

### ISSUE THREAD

**Issue by zifanersuotang** [TheJustinSunPrize/awards#16]
### Problem and original source

This is a batch registration/evidence request for **existing public Lean proofs**, covering the **seven catalog entries listed below**. It supplements an existing catalog entry; it does not propose a duplicate problem.

| Catalog record at reviewed revision | Original source |
| --- | --- |
| [JSP-000440](https://github.com/TheJustinSunPrize/awards/blob/f4e7173d89dfe91022a185427d63452c8ffbf6ae/problems/catalog-0401-0500.md#JSP-000440) | [Erdős #549](https://www.erdosproblems.com/549) |
| [JSP-000490](https://github.com/TheJustinSunPrize/awards/blob/f4e7173d89dfe91022a185427d63452c8ffbf6ae/problems/catalog-0401-0500.md#JSP-000490) | [Erdős #603](https://www.erdosproblems.com/603) |
| [JSP-000492](https://github.com/TheJustinSunPrize/awards/blob/f4e7173d89dfe91022a185427d63452c8ffbf6ae/problems/catalog-0401-0500.md#JSP-000492) | [Erdős #605](https://www.erdosproblems.com/605) |

| [JSP-000378](https://github.com/TheJustinSunPrize/awards/blob/f4e7173d89dfe91022a185427d63452c8ffbf6ae/problems/catalog-0301-0400.md#JSP-000378) | [Erdős #466](https://www.erdosproblems.com/466) |
| [JSP-000539](https://github.com/TheJustinSunPrize/awards/blob/f4e7173d89dfe91022a185427d63452c8ffbf6ae/problems/catalog-0501-0600.md#JSP-000539) | [Erdős #664](https://www.erdosproblems.com/664) |
| [JSP-000572](https://github.com/TheJustinSunPrize/awards/blob/f4e7173d89dfe91022a185427d63452c8ffbf6ae/problems/catalog-0501-0600.md#JSP-000572) | [Erdős #702](https://www.erdosproblems.com/702) |
| [JSP-000575](https://github.com/TheJustinSunPrize/awards/blob/f4e7173d89dfe91022a185427d63452c8ffbf6ae/problems/catalog-0501-0600.md#JSP-000575) | [Erdős #705](https://www.erdosproblems.com/705) |

The reviewed catalog says `Lean proof: No`. Please assess the attached source and verification evidence for registration and, if accepted, update that field through the normal review process.

### Statement and significance

For **JSP-000490 / Erdős #603**, the exact result has **no uniform cardinal bound** on the required number of colors: for every cardinal `C`, there is a family of countably infinite sets such that distinct indexed members never intersect in exactly two points, and every `C`-coloring of their union has a monochromatic member.

The family and its union are not assumed countable. Thus this is the arbitrary-family interpretation in the linked problem discussion, not a restriction to countably many sets or only finitely many colors.

The existing source proves:
```lean
theorem Erdos603.erdos_603 (C : Cardinal.{u}) :
    ∃ (I X : Type u) (A : I → Set X),
      Erdos603.IsErdos603Family A ∧
      Erdos603.UnionHasMonochromaticMember A C.out
```
Here `IsErdos603Family` requires each member to be countably infinite and intersections for distinct indices to have extended cardinality different from two. `UnionHasMonochromaticMember` quantifies over every coloring of the union. The Erdős–Rado argument used by the final theorem is developed within the same source file; it is not an unproved extra assumption.

For **JSP-000440 / Erdős #549**, the theorem disproves the conjectured universal formula `R(T) = 4k - 1` for a tree with bipartition sizes `k` and `2k`. The construction is the double star `S(31,15)`, with bipartition sizes 16 and 32, and a coloring of `K₆₃` in which neither color contains that tree. This refutes the proposed formula; it does not compute the Ramsey number of every tree in the class.

For **JSP-000492 / Erdős #605**, the theorem supplies a fixed sphere in three-dimensional Euclidean space and a function `f : ℕ → ℝ` tending to infinity. For every `n`, there are `n` distinct points on the sphere and at least `n * f(n)` unordered pairs at one common positive distance. The proof uses the unit sphere and distance `√2`. This resolves the main repeated-distance question; no stronger bound for every prescribed sphere diameter is asserted.

For **JSP-000378 / Erdős #466**, the explicit planar points `(2^m, 4^m)` provide arbitrarily large configurations whose pairwise distances stay more than `1/10` from every integer. The theorem proves that the maximum admissible cardinality in a radius-`X` disk tends to infinity for that fixed positive separation.

For **JSP-000539 / Erdős #664**, for `c = 2/5` and every proposed integer bound `K`, there is a finite family of subsets of an `n`-point set, each of size greater than `c √n` and with pairwise intersections of size at most one, such that every transversal meets some member in more than `K` points. Thus the bound being refuted is a uniform bound on the number of transversal points within **each member**, not on the total size of the transversal. This does not settle the separate pairwise-balanced-design/full-finite-geometry variant, and no quantitative logarithmic bound is claimed from the exported theorem.

For **JSP-000572 / Erdős #702**, both qualifications matter: for each fixed `k ≥ 4`, the positive intersection theorem holds for **all sufficiently large n**; the unrestricted all-`n` formulation is refuted by `n=5, k=4`. The positive theorem concerns `k`-uniform families with more than `binomial(n-2,k-2)` members and guarantees two members whose intersection has size one. Please preserve this eventual-`n` scope in any catalog update.

For **JSP-000575 / Erdős #705**, there is no girth threshold guaranteeing three-colorability of finite unit-distance graphs faithfully embedded in the Euclidean plane. The graph has an edge exactly when its represented points have distance one. This is Euclidean realizability, not graph-theoretic planarity; the registered conclusion is failure of three-colorability, without a claim that the final theorem separately supplies an exact four-color upper bound.

### Known results and verification evidence

**Verified entries in this submission**

| Catalog ID | Original problem | Exact final theorem | Local compile | Target-module replay |
| --- | --- | --- | --- | --- |
| JSP-000440 | Erdős #549 | `Erdos549.not_erdos_549` | Exit 0 | Exit 0 |
| JSP-000490 | Erdős #603 | `Erdos603.erdos_603` | Exit 0 | Exit 0 |
| JSP-000492 | Erdős #605 | `Erdos605.erdos_605` | Exit 0 | Exit 0 |
| JSP-000378 | Erdős #466 | `Erdos466.erdos_466` | Exit 0 | Exit 0 |
| JSP-000539 | Erdős #664 | `Erdos664.erdos_664_counterexamples`; `Erdos664.not_erdos_664` | Exit 0 | Exit 0 |
| JSP-000572 | Erdős #702 | `Erdos702.erdos_702_eventually`; `Erdos702.not_erdos_702` | Exit 0 | Exit 0 |
| JSP-000575 | Erdős #705 | `Erdos705.not_erdos_705` | Exit 0 | Exit 0 |

**Immutable source and attribution**

- [Unchanged public proof source](https://github.com/plby/lean-proofs/blob/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/ErdosProblems/Erdos603.lean)
- Repository commit: `8822f7ddef30fadbd92e1c6ab4ed897af356af5e`
- SHA-256 of the exact source bytes: `d7cd97c046cb1ebcbe6d7d2186c69ac4a01ecd2aef800281c3e2f6742aca8e25`
- The source's own informal/formal author credits are retained at that link. This submission claims only source review and local verification, **not authorship, a new formalization, first-publication priority, or a prize entitlement**.
- The linked source already contains the theorem and its `#print axioms` command; no theorem body or statement was changed for these checks.

**Observed environment and results, 2026-09-16**

- Lean 4.33.0, release commit `d8b18978322de05a8f3dba51ef03cf5461676c17`.
- Mathlib commit `db584cd6d46c92f209a44c0f1c829460d327499d`.
- Compilation completed at 17:35:23 +08:00 with exit code 0:
  `lean -o ErdosProblems/Erdos603.olean ErdosProblems/Erdos603.lean`
- Its complete theorem-axiom output was:
  ```text
  'Erdos603.erdos_603' depends on axioms: [propext, Classical.choice, Quot.sound]
  ```
- Target replay completed at 17:35:34 +08:00 with exit code 0:
  `leanchecker ErdosProblems.Erdos603`
  The checker emitted no output on this successful invocation.

These checks used the pinned toolchain and existing Mathlib binary cache, read-only, with the locally compiled proof directory on `LEAN_PATH`. The axiom report lists only the three usual Lean/Mathlib axioms above, with no `sorryAx` or custom theorem assumption. The replay checks this target module against its imported environment. It is **not** a fresh replay of all Mathlib declarations, an independently implemented kernel, or an independent human referee report.

**Additional source files and observed checks (same Lean/Mathlib versions)**

All of the following are also unchanged files at upstream commit `8822f7ddef30fadbd92e1c6ab4ed897af356af5e`. Their original attribution remains in the source headers and linked problem discussions.

| File | SHA-256 | Compile completed (+08:00) | Target replay completed (+08:00) |
| --- | --- | --- | --- |
| [Erdos549.lean](https://github.com/plby/lean-proofs/blob/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/ErdosProblems/Erdos549.lean) | `0d6831c50e948a5cf892db6594591dc424b7eee164bd622ed557d98a8abbd2d7` | 2026-09-16 17:42:38 | 2026-09-16 17:43:00 |
| [Util/Ramsey.lean](https://github.com/plby/lean-proofs/blob/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/Util/Ramsey.lean) (dependency of #549) | `c1269d71fcd105835310b53e87a588fcb5628f87a76c9f16d7a007697f77b82a` | passed before replay | 2026-09-16 17:42:11 |
| [Erdos605.lean](https://github.com/plby/lean-proofs/blob/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/ErdosProblems/Erdos605.lean) | `61b4bbf881f9228d5e99077f2f53792c0ec5c0e6d835b67bb4985e421a0488ac` | 2026-09-16 17:41:19 | 2026-09-16 17:41:38 |

Each listed compile and target replay exited 0. The printed axiom sets for `Erdos549.not_erdos_549` and `Erdos605.erdos_605` are both exactly `[propext, Classical.choice, Quot.sound]`. The `Util.Ramsey` dependency was compiled and separately replayed before #549. The initial parallel attempts at these two main modules had stopped during library imports under memory pressure; their later serialized successful runs, rather than those failed attempts, are the evidence reported here.

**Four further verified entries, added on 2026-09-16**

The following source files, listed in build order within each dependency chain, were fetched unchanged from the same upstream commit. Their hashes were checked against the retained source copies. Every custom module was compiled successfully; target `leanchecker` replay succeeded for each of #466, #664, #702 and #705. The actual axiom reports for all six named theorems in those four entries list exactly `[propext, Classical.choice, Quot.sound]`.

| Source file / custom dependency | SHA-256 |
| --- | --- |
| [ErdosProblems/Erdos466.lean](https://github.com/plby/lean-proofs/blob/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/ErdosProblems/Erdos466.lean) | `0c829ffc09a32513c62ba654c5b5e661e5a35820601d3a0e88ebae09b2f04f5e` |
| [ErdosProblems/Erdos664/Probability.lean](https://github.com/plby/lean-proofs/blob/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/ErdosProblems/Erdos664/Probability.lean) | `1858c466464dc51c9c2d754284f10f0857b22f38e1437ea490fbe8453e7586f8` |
| [ErdosProblems/Erdos664/Analysis.lean](https://github.com/plby/lean-proofs/blob/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/ErdosProblems/Erdos664/Analysis.lean) | `b617fecb94bbe7bade5c235ba4f73282f4573d526a8f64ef1e5977c42d790ccf` |
| [ErdosProblems/Erdos664.lean](https://github.com/plby/lean-proofs/blob/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/ErdosProblems/Erdos664.lean) | `e365f9edf7273b1c6f034f30cc36012db14b3219534819d7d6ecec10607fac8c` |
| [ErdosProblems/Erdos703/Iteration.lean](https://github.com/plby/lean-proofs/blob/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/ErdosProblems/Erdos703/Iteration.lean) | `e7b8742ce8f0afdd3f923f6b716f45c9171d0a89f3fb9e4f9a8ae39a2b1d163d` |
| [ErdosProblems/Erdos702.lean](https://github.com/plby/lean-proofs/blob/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/ErdosProblems/Erdos702.lean) | `3ed6feb37293f5358632ed6fbd75e4d9a12600dd438a524ef93baabc588ad24f` |
| [Util/EuclideanGeometry.lean](https://github.com/plby/lean-proofs/blob/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/Util/EuclideanGeometry.lean) | `86edbd113625cec19118c027d64aea83538ed9c777de473c99f712b77a918b9b` |
| [ErdosProblems/Erdos705.lean](https://github.com/plby/lean-proofs/blob/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/ErdosProblems/Erdos705.lean) | `be8ea58939257a0f2872e7e3061ac1db66016a3fdc29c8f111282b187bb295a1` |

Observed successful runs, in seconds (wall time is evidence of an executed run, not a performance guarantee):

| Target | Custom-source compile(s), in build order | Target replay |
| --- | --- | --- |
| #466 | 34.845 | 14.520 |
| #664 | 10.428; 10.068; 10.123 | 14.619 |
| #702 | 19.648; 19.978 | 17.290 |
| #705 | 7.346; 26.487 | 13.665 |

A separate importing audit module printed the #664/#702/#705 theorem types and axioms successfully. These files use the same pinned Mathlib environment and the same target-replay scope explained above. Their original mathematical and formalization credits remain in the linked sources; these additional entries likewise claim verification and registration only.

**Portable reproduction**

The following places the unchanged source and compiled module in a checkout using the recorded Mathlib commit. It does not require adding the theorem to Mathlib's build configuration.

```sh
git clone https://github.com/leanprover-community/mathlib4.git mathlib4-jsp603
cd mathlib4-jsp603
git checkout db584cd6d46c92f209a44c0f1c829460d327499d
lake exe cache get
mkdir -p ErdosProblems .lake/build/lib/lean/ErdosProblems
curl -L --fail \
  https://raw.githubusercontent.com/plby/lean-proofs/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/ErdosProblems/Erdos603.lean \
  -o ErdosProblems/Erdos603.lean
sha256sum ErdosProblems/Erdos603.lean
lake env lean --version
lake env lean -o .lake/build/lib/lean/ErdosProblems/Erdos603.olean ErdosProblems/Erdos603.lean
lake env leanchecker ErdosProblems.Erdos603
```

For #549 and #605, in that same checkout fetch and compile the following files in dependency order; compare their SHA-256 values to the table above:

```sh
for path in Util/Ramsey ErdosProblems/Erdos549 ErdosProblems/Erdos605; do
  mkdir -p "$(dirname "$path")" ".lake/build/lib/lean/$(dirname "$path")"
  curl -L --fail \
    "https://raw.githubusercontent.com/plby/lean-proofs/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/$path.lean" \
    -o "$path.lean"
  sha256sum "$path.lean"
  lake env lean -o ".lake/build/lib/lean/$path.olean" "$path.lean" || exit 1
  module=$(printf '%s' "$path" | tr / .)
  lake env leanchecker "$module" || exit 1
done
```

For the four added entries, continue in that same checkout with the exact dependency order below. Compare each downloaded hash with the preceding table.

```sh
for path in \
  ErdosProblems/Erdos466 \
  ErdosProblems/Erdos664/Probability \
  ErdosProblems/Erdos664/Analysis \
  ErdosProblems/Erdos664 \
  ErdosProblems/Erdos703/Iteration \
  ErdosProblems/Erdos702 \
  Util/EuclideanGeometry \
  ErdosProblems/Erdos705; do
  mkdir -p "$(dirname "$path")" ".lake/build/lib/lean/$(dirname "$path")"
  curl -L --fail \
    "https://raw.githubusercontent.com/plby/lean-proofs/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/$path.lean" \
    -o "$path.lean" || exit 1
  sha256sum "$path.lean"
  lake env lean -o ".lake/build/lib/lean/$path.olean" "$path.lean" || exit 1
done
for module in ErdosProblems.Erdos466 ErdosProblems.Erdos664 ErdosProblems.Erdos702 ErdosProblems.Erdos705; do
  lake env leanchecker "$module" || exit 1
done
cat > AuditAdditional.lean <<'EOF'
import ErdosProblems.Erdos466
import ErdosProblems.Erdos664
import ErdosProblems.Erdos702
import ErdosProblems.Erdos705
#print axioms Erdos466.erdos_466
#print axioms Erdos664.erdos_664_counterexamples
#print axioms Erdos664.not_erdos_664
#print axioms Erdos702.erdos_702_eventually
#print axioms Erdos702.not_erdos_702
#print axioms Erdos705.not_erdos_705
EOF
lake env lean AuditAdditional.lean
```

The reproduction recipe is a portable equivalent of the local commands; independent execution of that recipe remains pending. Please compare the source hash and the toolchain version before relying on the outcome. This evidence request does not assert that community-consensus, external archival, recipient-confirmation, or award-review requirements have been completed.

### Related records and conflicts

The repository's open and closed issues/PRs were checked on 2026-09-16; no earlier submission for the initially registered three JSP/Erdős pairs was found. The four added pairs were checked against the refreshed issue/PR inventory before this update. PR #2 proposes catalog renumbering, so this request identifies the problem by its pinned catalog revision, Erdős number, and exact mathematical statement.

No relevant public professional relationship is known from the preparation of this evidence request. No recipient identity, authorized signature, award allocation, or payment is proposed. If a later recipient record is appropriate, its identity and contribution must be confirmed separately. Original source attribution must be preserved. This submission was prepared with Codex assistance.

Additional entries will be added here only after their exact statements, unchanged source hashes, compilation, and target replays have been checked; the rest of the audit batch is not claimed as locally verified.
